US09302989B2
N-{4-[1-(isopropylsulfonyl)-1,2,3,6-tetrahydropyridin-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 283, substituting propane-2-sulfonyl chloride for methanesulfonyl chloride and N-[4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.38-8.40 (m, 1H), 7.56-7.59 (m, 2H), 7.29-7.38 (m, 6H), 6.11-6.14 (m, 1H), 4.76-4.80 (m, 4H), 3.93-3.96 (m, 2H), 3.49 (t, J=5.5 Hz, 2H), 3.35-3.45 (m, 1H), 2.47-2.51 (m, 2H), 1.24 (d, J=6.9 Hz, 6H); MS (ESI(−)) m/e 424 (M−H)−.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-[4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H21N3O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-{4-[1-(isopropylsulfonyl)-1,2,3,6-tetrahydropyridin-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | C(C)(C)S(=O)(=O)N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C23H27N3O3S
